Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
___: Procedure: Under sterile conditions the bilateral wrists 
were anesthetized with a hematoma block with 10 cc of 1% 
lidocaine.  The wrists were closed reduced and placed into a 
volar dorsal splint.  Postreduction films demonstrate improved 
alignment.

 
History of Present Illness:
Pt is a ___  female with hx arrhythmia (s/p PPM and on 
Pradaxa), dementia who presents as transfer from outside 
hospital after a fall from one
step with positive head strike and loss of consciousness.  
Trauma evaluation at outside hospital was remarkable for left 
maxillary sinus and orbital wall and floor fractures, in 
addition to bilateral distal radius fractures.  She was 
transferred to ___ for definitive care.  Upon 
arrival she was noted to be at her baseline mental status with a 
GCS of 14. Orthopedics was consulted for evaluation of her 
extremity fractures.
 
Past Medical History:
PMH: 
Dementia 
Cardiac/HTN and arrhythmia s/p Pacemaker 

PSH:
Right shoulder surgery
Leg skin cancer surgery
 
Social History:
Lives with Daughter and Son-in-law who are not home during the
day.
Supportive family nearby. 
Pt is retired 

 
Physical Exam:
Admission 
PHYSICAL EXAMINATION
Temp: 97.5 HR: 68 BP: 145/80 Resp: 13 O(2)Sat: 98 Normal
Constitutional: Comfortable
HEENT: L facial swelling, ecchymosis
no c-spine ttp
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft
GU/Flank: No costovertebral angle tenderness
Extr/Back: Bilateral wrist swelling with tenderness to
palpation,
Skin: No rash
Neuro: Speech fluent, GCS 15
Psych: Normal mood

Discharge Physical Exam:
VS: 98.0, 155/69, 70, 16, 96 Ra
Gen: A&O, sitting up in bed comfortably
HEENT: L-sided periorbital ecchymosis and swelling 
Pulm: LS ctab
CV: HRR
Abd: soft NT/ND
Ext: Bilateral wrists in splints. Hand swelling L>R, +csm
Neuro: baseline dementia, stable

 
Pertinent Results:
___ 05:41AM BLOOD WBC-8.3 RBC-3.29* Hgb-8.8* Hct-28.0* 
MCV-85 MCH-26.7 MCHC-31.4* RDW-15.5 RDWSD-48.1* Plt ___
___ 05:58AM BLOOD WBC-9.6 RBC-3.27* Hgb-8.8* Hct-27.6* 
MCV-84 MCH-26.9 MCHC-31.9* RDW-15.4 RDWSD-46.8* Plt ___
___ 05:40PM BLOOD WBC-11.8* RBC-3.77* Hgb-10.1* Hct-31.8* 
MCV-84 MCH-26.8 MCHC-31.8* RDW-15.2 RDWSD-46.4* Plt ___
___ 05:41AM BLOOD Glucose-112* UreaN-15 Creat-0.7 Na-144 
K-3.9 Cl-106 HCO3-25 AnGap-13
___ 05:58AM BLOOD Glucose-117* UreaN-16 Creat-0.7 Na-137 
K-4.0 Cl-98 HCO3-25 AnGap-14
___ 05:40PM BLOOD Glucose-153* UreaN-15 Creat-0.7 Na-137 
K-4.1 Cl-99 HCO3-25 AnGap-13
___ 05:40PM BLOOD ALT-41* AST-69* AlkPhos-75 TotBili-0.6
___ 05:41AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.9
___ 05:58AM BLOOD Calcium-8.7 Phos-3.3 Mg-2.0

Radiology: 
IMAGING: Plain films of the bilateral wrists reviewed and 
notable
for dorsally angulated, displaced distal radius fractures
bilaterally

CT face from OSH
Read per ER report is Left anterior and lateral wall fractures 
of
the maxilla and fractures of the orbital floor and lateral wall.
On my review of imaging these appear to be the only fractures.
The orbital floor is minimally to non-displaced, and the
maxillary sinus fractures are minimally displaced.

___ Wrist XR:  
Overlying casts obscures fine bony detail of the bilateral 
comminuted intra-articular distal radius fractures and distal 
left ulnar fracture 

 
Brief Hospital Course:
___ year old F with history of arrhythmia s/p pacemaker on 
pradaxa who was found down after a mechanical fall from 1 step 
with positive head strike and loss of consciousness. The patient 
has baseline dementia and was GCS 14 upon arrival to ED. Imaging 
revealed a left maxillary sinus and orbital wall and floor 
fractures, in addition to bilateral distal radius fractures. The 
patient was hemodynamically stable and neurovascularly intact. 
Orthopedic Surgery was consulted; they performed a reduction at 
the bedside and splinted the wrists bilaterally. They 
recommended non-operative management and  non-weight bearing to 
the bilateral upper extremities. Ophthalmology and Plastic 
Surgery was consulted for the facial fractures. Ophthalmology 
exam showed no signs of EOM entrapment, globe injury or retinal 
injury. Plastic Surgery recommended non-operative management as 
the fractures appear minimally displaced, and sinus precautions. 
The pradaxa was held. 

The patient was admitted for monitoring and ___ evaluation. 
Vital signs and lab work remained stable. The hematocrit 
remained stable and pradaxa was restarted on HD2. ___ and OT 
worked with the patient and recommended rehab once medically 
cleared. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged to rehab. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.

 
Medications on Admission:
Medications - Prescription
-ATENOLOL - atenolol 50 mg tablet. 1 tablet(s) by mouth twice a
day -  (Prescribed by Other Provider)
-DABIGATRAN ETEXILATE [PRADAXA] - Pradaxa 150 mg capsule. 1
capsule(s) by mouth twice a day -  (Prescribed by Other 
Provider)
-FLUOXETINE - fluoxetine 10 mg tablet. 1 tablet(s) by mouth once
a day -  (Prescribed by Other Provider)
-FUROSEMIDE - furosemide 20 mg tablet. 1 tablet(s) by mouth once
a day -  (Prescribed by Other Provider)
-LORAZEPAM - lorazepam 0.5 mg tablet. 1 tablet(s) by mouth twice
a day as needed for anxiety -  (Prescribed by Other Provider)
-PRAVASTATIN - pravastatin 40 mg tablet. 1 tablet(s) by mouth
once a day -  (Prescribed by Other Provider)
-SOTALOL - sotalol 80 mg tablet. 1 tablet(s) by mouth twice a 
day
-  (Prescribed by Other Provider)
 
Medications - OTC
-CA CARB-D3-MAG ___ [CALTRATE + D3 PLUS MINERALS] -
Dosage uncertain -  (Prescribed by Other Provider)
-ERGOCALCIFEROL (VITAMIN D2) - Dosage uncertain -  (Prescribed 
by
Other Provider)
-MULTIVIT-MIN-FA-LYCOPEN-LUTEIN [CENTRUM SILVER] - Dosage
uncertain -  (Prescribed by Other Provider)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Polyethylene Glycol 17 g PO DAILY  
3.  Senna 8.6 mg PO BID  
4.  TraMADol 50 mg PO Q6H:PRN Pain - Severe 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0 
5.  Atenolol 50 mg PO BID  
6.  Dabigatran Etexilate 150 mg PO BID  
7.  FLUoxetine 10 mg PO DAILY  
8.  Furosemide 20 mg PO DAILY  
9.  LORazepam 0.5 mg PO BID  
10.  Pravastatin 40 mg PO QPM  
11.  sotalol 80 mg oral bid  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mechanical fall

Left maxillary sinus and orbital wall and floor fractures

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ after a fall. Your injuries included 
facial fractures and bilateral wrist fractures. You had loss of 
consciousness when you hit your head, so you may experience 
concussion symptoms. Orthopedic Surgery was consulted and did a 
closed reduction of the wrist fractures. They are now splinted. 
You should remain non-weight bearing to your upper extremities 
until follow-up in the ___ clinic. Plastic Surgery was 
consulted for the facial fractures. They recommended 
non-operative management of the fractures. You should follow 
sinus precautions until your follow-up in the Plastic Surgery 
clinic. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.

Sinus Precautions:
Keep your head elevated on pillows when in bed
For at least two weeks DO NOT: 
-blow your nose
-drink through a straw
-smoke
-fly in a plane 
-play a wind instrument
-cough or sneeze with your mouth closed

 
Followup Instructions:
___